US06211183B1
Preparation of Ethyl 2-(4-benzyloxycarbonyl-2-oxopiperazino)acetate:
To a solution of 4-benyloxycarbonylpiperazin-2-one (M.W.=234.26, 2.34 g, 10 mmol) in anhydrous THF (150 mL) at −78° C. under argon was added lithium bis(trimethylsilyl) amide (1 M in THF, 12 mL, 12 mmol) dropwise. The mixture was stirred at −78° C. for 30 min Ethyl iodoacetate (M.W.−214, 2.14 g, 10 mmol) was added to the mixture at −78° C., stirred, warmed up to −10° C., and then kept in the freezer over night. The reaction was quenched by adding 1N HCl (60 mL) and extracted with EtOAc (200 mL+100 mL). The combined organic layers were washed with sat. NaCl three times, dried with MgSO4, and evaporated to give the crude title compound as a yellowish oil. Reversed-phase HPLC purification afforded the pure compound in 81% yield.

reactant | 4-benyloxycarbonylpiperazin-2-one | 10 mmol, 2.34 g | C(C1=CC=CC=C1)OC(=O)N1CC(NCC1)=O | C12H14N2O3
reactant | lithium bis(trimethylsilyl) amide | 12 mmol, 1 M, 12 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | Ethyl iodoacetate | 10 mmol, 2.14 g | ICC(=O)OCC | C4H7IO2
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | Ethyl 2-(4-benzyloxycarbonyl-2-oxopiperazino)acetate | 81% yield | C(C1=CC=CC=C1)OC(=O)N1CC(N(CC1)CC(=O)OCC)=O | C16H20N2O5
